US08580957B2
(3S)-3-(Phenylamino)butanenitrile
(3S)-3-Aminobutanenitrile (8.6 g, 102 mmol, may be prepared as described in PCT Int. Appl., 2005100321), bromobenzene (16.16 ml, 153 mmol) and cesium carbonate (50.0 g, 153 mmol) were combined in toluene (100 mL) under nitrogen were stirred for 45 min. Phenylboronic acid (0.187 g, 1.534 mmol, Aldrich), palladium(II) acetate (0.188 g, 0.837 mmol, available from Aldrich) and 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (0.443 g, 1.125 mmol, available from Aldrich) were combined in tetrahydrofuran (THF) (6.67 ml) under nitrogen and stirred for 45 min. The THF solution was added to the toluene solution and the reaction heated to 80° C. for 16 h. The reaction mixture was cooled and partitioned between EtOAc (500 mL) and water (300 mL). The aqueous layer was reextracted with EtOAc (200 mL). The combined organic layers were washed with water and brine (500 mL each) and then dried with Na2SO4, filtered and concentrated to yield orange oil. The crude product was taken up in the minimum of DCM, applied to a 330 g Companion XL column and eluted with 5% ethyl acetate in cyclohexane for 1 CV then 5-30% ethyl acetate over 12 CV then held at 30% for 3CV; UV collection; 450 mL fractions. The product was isolated as an off-white solid (11.3526 g).

reactant | (3S)-3-Aminobutanenitrile | 102 mmol, 8.6 g | N[C@H](CC#N)C | C4H8N2
reactant | bromobenzene | 153 mmol, 16.16 ml | BrC1=CC=CC=C1 | C6H5Br
reactant | cesium carbonate | 153 mmol, 50.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 6.67 ml | O1CCCC1 | C4H8O
catalyst | palladium(II) acetate | 0.837 mmol, 0.188 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | Phenylboronic acid | 1.534 mmol, 0.187 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 1.125 mmol, 0.443 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
product | (3S)-3-(Phenylamino)butanenitrile | 11.3526 g | C1(=CC=CC=C1)N[C@H](CC#N)C | C10H12N2
